US08071565B2
Step CA1: Acetic acid (2R,3R,4R,5S)-4-acetoxy-2-[6-((S)-1-benzyl-2-hydroxy-ethylamino)-2-chloro-purin-9-yl]-5-(3-ethyl-isoxazol-5-yl)-tetrahydro-furan-3-yl ester hydrochloride
A mixture comprising acetic acid (2R,3R,4R,5S)-4-acetoxy-2-(2,6-dichloro-purin-9-yl)-5-(3-ethyl-isoxazol-5-yl)-tetrahydro-furan-3-yl ester (WO 99/38877) (1 g, 2.13 mmol), (S)-2-amino-3-phenyl-propan-1-ol (0.321 g, 2.13 mmol) and DIPEA (0.275 g, 2.13 mmol) in DCE (5 mL) is stirred under an inert atmosphere of argon overnight. After cooling to room temperature (RT), 1 M HCl is added, the organic portion is separated and concentrated in vacuo to afford the title compound which is used in the next step without further purification. (MH+585.1)

reactant | acetic acid (2R,3R,4R,5S)-4-acetoxy-2-(2,6-dichloro-purin-9-yl)-5-(3-ethyl-isoxazol-5-yl)-tetrahydro-furan-3-yl ester | 2.13 mmol, 1 g | C(C)(=O)O[C@H]1[C@H]([C@@H](O[C@@H]1C1=CC(=NO1)CC)N1C2=NC(=NC(=C2N=C1)Cl)Cl)OC(C)=O | C18H17Cl2N5O6
reactant | (S)-2-amino-3-phenyl-propan-1-ol | 2.13 mmol, 0.321 g | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
reactant | DIPEA | 2.13 mmol, 0.275 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HCl | 1 M | Cl | ClH
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
product | Acetic acid (2R,3R,4R,5S)-4-acetoxy-2-[6-((S)-1-benzyl-2-hydroxy-ethylamino)-2-chloro-purin-9-yl]-5-(3-ethyl-isoxazol-5-yl)-tetrahydro-furan-3-yl ester hydrochloride | Cl.C(C)(=O)O[C@H]1[C@H]([C@@H](O[C@@H]1C1=CC(=NO1)CC)N1C2=NC(=NC(=C2N=C1)N[C@H](CO)CC1=CC=CC=C1)Cl)OC(C)=O | InChI=1S/C27H29ClN6O7.ClH/c1-4-17-11-19(41-33-17)21-22(38-14(2)36)23(39-15(3)37)26(40-21)34-13-29-20-24(31-27(28)32-25(20)34)30-18(12-35)10-16-8-6-5-7-9-16;/h5-9,11,13,18,21-23,26,35H,4,10,12H2,1-3H3,(H,30,31,32);1H/t18-,21+,22+,23+,26+;/m0./s1
